US06265411B1
A mixture of 7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one (500 mg, 1.7 mmol), thionyl chloride (10 ml) and DMF (0.1 ml) was heated at reflux for 2 hours. The volatiles were removed by evaporation and the residue azeotroped with toluene. The crude product was partitioned between methylene chloride (50 ml) and saturated aqueous sodium hydrogen carbonate solution (50 ml) and the mixture stirred for 10 minutes. The organic phase was separated and the aqueous phase extracted with methylene chloride. The combined extracts were dried (MgSO4) and the solvent removed by evaporation to give 4-chloro-7-(3-morpholinopropoxy)quinazoline (425 mg, 80%).

reactant | 7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one | 1.7 mmol, 500 mg | O1CCN(CC1)CCCOC1=CC=C2C(NC=NC2=C1)=O | C15H19N3O3
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
product | 4-chloro-7-(3-morpholinopropoxy)quinazoline | 425 mg, 80% | ClC1=NC=NC2=CC(=CC=C12)OCCCN1CCOCC1 | C15H18ClN3O2
